US08461179B1
A solution of 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-2-chloro-4-fluorophenyl)-1-methyl-1,6-naphthyridin-2(1H)-one (3 g, 6.6 mmol) in DCM (50 mL) was treated with TFA (20 mL) and the mixture was heated to reflux overnight. The mixture was concentrated under reduced pressure, the residue was dissolved in 10% HCl (50 mL), washed with EtOAc, neutralized with satd. NaHCO3 and extracted with EtOAc (3×). The combined organics were washed with brine, dried (Na2SO4) and concentrated in vacuo to give 3-(5-amino-2-chloro-4-fluorophenyl)-1-methyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one (1.6 g, 72% yield) 1H NMR (300 MHz, DMSO-d6): δ 8.36 (s, 1H), 7.66 (s, 1H), 7.17 (d, J=10.8 Hz, 1H), 7.05 (m, 1H), 6.71 (d, J=9.6 Hz, 1), 6.15 (s, 1H), 5.30 (s, 2H), 3.47 (s, 3H), 3.42 (s, 1H), 2.84 (d, J=4.4 Hz, 3H); MS (ESI) m/z: 333.1 [M+H]+

reactant | 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-2-chloro-4-fluorophenyl)-1-methyl-1,6-naphthyridin-2(1H)-one | 6.6 mmol, 3 g | COC1=CC=C(CN(C2=NC=C3C=C(C(N(C3=C2)C)=O)C2=C(C=C(C(=C2)N)F)Cl)C)C=C1 | C24H22ClFN4O2
reactant | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-amino-2-chloro-4-fluorophenyl)-1-methyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one | 1.6 g, 72% yield | NC=1C(=CC(=C(C1)C=1C(N(C2=CC(=NC=C2C1)NC)C)=O)Cl)F | C16H14ClFN4O
